reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12],66.7000433980318
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](/[N:5]=[C:6](/[O:7][H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],45.4664621232546
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]=[C:5]([H:9])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8],83.14641772189067
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:6]([C:4]([C:5]([H:14])([H:15])[H:16])([H:13])[H:17])=[O:7])([H:11])[H:12])([H:8])([H:9])[H:10],74.02993587505959
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[O:3][C:4]([H:12])([H:13])/[C:5]1=[N:6]/[H:11])([H:7])([H:8])[H:9],97.68179689068221
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[O:1]=[C:2]=[C:3]=[C:4]=[C:5]=[N:6][H:7],84.6091064610587
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:12])([C:4]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:16],82.1983262794204
[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[C:1](#[C:2][N:5]=[C:4]=[C:3]([H:7])[H:8])[H:6],117.005806120185
[C:1](=[C:2]1[N:3]([H:11])[O:7][C:6]([H:9])([H:14])[C:5]([H:12])([H:13])[O:4]1)([H:8])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],48.39374314747211
[O:1]([C:2]([C:3][N:5]([C:4]([H:9])([H:10])[H:11])[H:12])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6],39.1793928908549
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C@@:6]([O:7][H:12])([H:15])[C@@:4]1([O:5][H:14])[H:13])([H:8])([H:9])[H:10],48.663832171570995
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])[H:9].[O:1]([H:7])[H:8],81.9095333326407
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])(/[C:4](=[N:5]/[H:14])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:13][H:15],102.54069553036301
[C:5](#[N:6])[H:9].[O:1]([C:2](=[C:3]=[O:4])[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],52.61773377760908
[C:1]([N+:2]([C+:3]([O-:4])[N-:5][C+:6]([N-:7][H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],13.320000808235598
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1](/[C:2](=[N:3]/[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:7])[H:8],46.046585230368606
[C:1]([C:2]([C@@:3]([O:4][H:19])([C:5]([C:6]([H:16])([H:17])[H:18])=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],57.52158516054649
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([H:10])([H:11])[H:13])([H:7])([H:8])[H:9].[C:5]([O:6][H:14])[H:12],80.2294685704568
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([C@:5]1([C:6][H:11])[N:3]([H:8])[C:4]1([H:9])[H:10])[H:7],108.81959314149599
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:5]([O:6][C:4]([H:13])([H:14])[H:15])[H:16])([H:7])([H:8])[H:9],101.882355821595
[C:1](=[C:2]=[N:3][O:4][H:10])([H:7])[H:9].[C:5](=[O:6])([H:11])[H:12].[H:8][H:13]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],43.89445697970011
[C:1](=[N:2][H:11])([H:9])[H:10].[C:3](=[O:4])([N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:8]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],79.16540502315989
[C:1]([O:2][H:13])([H:7])([H:8])[H:9].[C:3](=[C:4]([O:5][C:6]([H:14])([H:15])[H:16])[H:12])([H:10])[H:11]>>[C:1]([O:2][C:3]([C:4]([O:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],61.87839123388997
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O:1]([C:2]([C@@:3]1([H:7])[C:4]([H:8])=[N:5]1)([H:6])[H:9])[H:10],82.469129770229
[C:1](/[C:2](=[C:5](\[O:6][N+:4]#[C-:3])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],36.6295253870842
